US07271262B2
N-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-2,6-difluoro-benzamide
2,6-difluorobenzoyl chloride (82.1 mg, 0.47 mmol) was added to a solution of (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone (100 mg, 0.31 mol) in pyridine (3 mL). The resulting solution was heated to 120° C. for 1 h at this time the reaction was quenched with water and concentrated. The residue was dissolved in EtOAc and washed with 1N NaOH and water. The organic layer was dried over Na2SO4 and concentrated. Purification by flash column chromatography (CH2Cl2/MeOH 97:3) afforded the title compound as a white solid (105 mg, 73%). MS: 462.2 (MH+); HPLC Rf: 5.70 min. (HPLC method 4).

reactant | 2,6-difluorobenzoyl chloride | 0.47 mmol, 82.1 mg | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | (4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(3-amino-phenyl)-methanone | 0.31 mol, 100 mg | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=CC=C2)N)C2CCCC2 | C18H19N5O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(4-Amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-phenyl]-2,6-difluoro-benzamide | 105 mg, 73% | NC=1C2=C(N=CN1)N(C=C2C(=O)C=2C=C(C=CC2)NC(C2=C(C=CC=C2F)F)=O)C2CCCC2 | C25H21F2N5O2
